US08034812B2
Production of 3-(1-cyanocyclohexyl)benzoic acid
Using methyl 3-(1-cyanocyclohexyl)benzoate (1.3 g, 5.3 mmol), lithium hydroxide-monohydrate (0.52 g, 13 mmol), tetrahydrofuran (18 mL), methanol (6.0 mL) and water (6.0 mL) as starting materials and in the same manner as in Reference Example 37, the title compound (1.1 g, 88%) was obtained as a white powder.

reactant | methyl 3-(1-cyanocyclohexyl)benzoate | 5.3 mmol, 1.3 g | C(#N)C1(CCCCC1)C=1C=C(C(=O)OC)C=CC1 | C15H17NO2
reactant | lithium hydroxide-monohydrate | 13 mmol, 0.52 g | O.[OH-].[Li+]
reactant | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
reactant | methanol | 6.0 mL | CO | CH4O
solvent | water | 6.0 mL | O | H2O
product | 3-(1-cyanocyclohexyl)benzoic acid | 1.1 g, 88% | C(#N)C1(CCCCC1)C=1C=C(C(=O)O)C=CC1 | C14H15NO2
